US04352817
A suspension of 8.7 g (0.03 mol) of 6-iodoisatoic acid anhydride, 2.95 g (0.033 mol) of sarcosine and 4.2 g of potassium carbonate in 50 ml of dimethylformamide is heated to 50° for 30 minutes. After cooling, the mixture is diluted with 400 ml of water, adjusted to pH 1-2 with 2 N hydrochloric acid and extracted several times with chloroform/isopropanol (4:1). After evaporation of the solvent and recrystallization of the residue from methylene chloride/hexane, there is obtained N-(6-iodoanthraniloyl)-N-methylglycine of melting point 147°-149°.

reactant | 6-iodoisatoic acid anhydride | 0.03 mol, 8.7 g | IC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4INO3
reactant | sarcosine | 0.033 mol, 2.95 g | N(C)CC(=O)O | C3H7NO2
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | N-(6-iodoanthraniloyl)-N-methylglycine | IC=1C=CC=C(C1C(=O)N(CC(=O)O)C)N | C10H11IN2O3
